US08022063B2
[4-Bromo-2-(2-phenylthiazol-4-yl)phenoxy]acetic acid.
Title compound was prepared from [4-bromo-2-(2-bromoacetyl)phenoxy]acetic acid ethyl ester and thiobenzamide according to GP5 and GP3: LC/MS (an10p8) Rt 2.69 min, m/z 390 [M+H]+.

reactant | [4-bromo-2-(2-bromoacetyl)phenoxy]acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)Br)C(CBr)=O)=O | C12H12Br2O4
reactant | thiobenzamide | C(C1=CC=CC=C1)(=S)N | C7H7NS
product | [4-Bromo-2-(2-phenylthiazol-4-yl)phenoxy]acetic acid | BrC1=CC(=C(OCC(=O)O)C=C1)C=1N=C(SC1)C1=CC=CC=C1 | C17H12BrNO3S
